Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bee Pollen / grass poll-perennial rye,std / Januvia / Dilaudid
 
Attending: ___.
 
Chief Complaint:
Necrotizing gallstone pancreatitis s/p common bile duct stent 
placement
 
Major Surgical or Invasive Procedure:
___: ERCP

 
History of Present Illness:
___ y/o M w/ hx of DM2, schizoaffective d/o, and recent 
necrotizing ___ pancreatitis, c/b respiratory failure and 
malignant catatonia with interval ERCP/stenting, s/p lap- 
subtotal CCY w/ Dr. ___ in ___, now presents for scheduled 
billiary stent removal.  
The patient initially presented to ___ ___  

w/ nausea, vomitting and abdominal pain and determined to have 
acute  
pancreatitis. He had an abd US that showed normal gallbladder,  
no biliary dilitation. GI was called to see the patient and an 
ERCP was done showing edematous duodenum with a smooth 
stricture, thought to be from pancreatic edema from 
pancreatitis. A stent was placed and dark sludge was seen. The 
patient's Tbili improved to 3 but then rose to 7.7 on ___. A 
repeat ERCP was done, which showed displacement of plastic stent 
and a ___ CBD stricture, so a metallic stent was placed. Later 
in his hospital course, he was noted to have worsening stridor, 
so was intubated. In addition, his medication changes triggered 
malignant catatonia, subsequently treated w/ a regimen of ECT 
___. The pt was extubated and re-intubated several  
times, following episodes of stridor, and eventualy determined 
to be aspirating causing aspiration pneumonia. His respiratory 
culture returned positive for MRSA. It was felt that the 
patient's aspiration event was likely secondary to airway edema 
from multiple intubations, and that his edema has healed over 
time with subsequent improvement in ability to protect his 
airway.  
 
A CT Abdomen during hospitalization revealed massive 
splenomegaly concerning for sinitral portal hypertension. 
Hepatobiliary surgery and Hepatology were consulted and felt 
that splenectomy was not indicated at this time. They recommend 
follow up with Dr. ___ with follow up CT abd/pelvis and 
elective CCY. A CT pancreatic protocol was performed on ___ to 
evaluate the stent. The stent appeared occluded but due to the 
patient's lack of symptoms and normal LFTs, it was decided to 
defer stent removal. He was discharged from ___ on ___.

He underwent elective laparoscopy CCY on ___. He was seen in 
the ED on ___ for RUQ abdominal pain at the site of his JP 
tube. In the ED, he had an u/s of his right upper quadrant, labs 
and chestxray, all of which were WNL. He was seen by Dr. ___ 
again on ___, continuing to complain of RUQ pain, thought to 
be secondary to his JP drain, which was removed at that visit. 
His RUQ pain resolved after this drain was removed. He was 
recently discharged home from rehab on ___.
  
Today, he came in for scheduled stent removal. Reportedly, the 
stent was difficult to remove and EUS showed the stent was 
buried in the ampulla. Therefore, he was admitted to the 
hospital for ERCP w/ stent removal tomorrow.

Since coming to the floor, VS were 98.0/98.0; 113-122/60-66; 
66-75; 18; 98-100% RA. Patient notes very mild ___ RLQ and LLQ 
pain that has been on and off since his initial pancreatitis 
admission. He denies any SOB or light-headedness and reports 
that he does not use his inhaler at home. He also notes that his 
skin is very itchy, and that he recently noticed a rash on his 
legs as well. He has never had a similar rash before, and he 
denies any history of eczema.
 
Past Medical History:
Schizoaffective disorder
DM2 
Asthma
OSA
HLD

 
Social History:
___
Family History:
Cancer 
CAD 

 
Physical Exam:
On Admission:
Vitals: 98.0/98.0; 113-122/60-66; 66-75; 18; 98-100% RA
General: Very pleasant, well-appearing M in NAD. AOx3
HEENT: NC/AT. EOMI. MMM. Neck soft, nontender
Lymph: No cervical LAD
CV: RRR. No MRG
Lungs: No increased WOB. Diffuse inspiratory and mid-expiratory 
wheezes throughout all lung fields. No rhonchi/rales.
Abdomen: Scar from previous JP drain in RUQ. +BS. Soft, NTND. No 
HSM appreciated.
Ext: WWP. No peripheral edema.
Neuro: CNII-XII grossly intact.
Skin: Dry, cracked skin on arms/legs/abdomen with erythema along 
fissures. 

On Discharge:
Vitals: 98.5/98.5; 106-125/88-94; 84-103; 94-99% RA
General: well developed well nourished male sitting in reclining 
chair, speaking in full sentences, NAD. axox3. 
HEENT: PERRL, MMM, no scleral icterus
Lymph no anterior cervial lymphadenopathy
Lungs: ctab, no crackles, wheezes, rhonchi
CV: rrr, s1/s2 without m/r/g
Abdomen: soft, non distended, non tender to deep palpation. +BS. 
Was not able to lift up gown to examine as patient was in 
hallway. 
Ext: warm, well perfused, no lower extremity edema
Neuro: axox3, no focal deficits or weakness
Skin: erythematous rash on back and bilateral upper and lower 
extremities, much improved from prior. Skin was moist, which is 
also improved from prior.
 
Pertinent Results:
On Admission:
___ 07:00AM BLOOD WBC-4.1 RBC-4.20* Hgb-10.0* Hct-31.3* 
MCV-75* MCH-23.9* MCHC-32.0 RDW-15.4 Plt ___
___ 07:00AM BLOOD Neuts-66.1 ___ Monos-9.4 Eos-0.1 
Baso-0.2
___ 07:00AM BLOOD Glucose-172* UreaN-9 Creat-0.8 Na-138 
K-3.8 Cl-101 HCO3-26 AnGap-15
___ 07:00AM BLOOD ALT-14 AST-13 AlkPhos-79 TotBili-0.5
___ 07:00AM BLOOD Calcium-8.9 Phos-3.6# Mg-1.4*

On Discharge:
___ 06:58AM BLOOD WBC-4.2 RBC-4.27* Hgb-10.5* Hct-31.9* 
MCV-75* MCH-24.6* MCHC-32.9 RDW-15.7* Plt ___
___ 06:58AM BLOOD Glucose-129* UreaN-9 Creat-0.8 Na-138 
K-4.3 Cl-103
___ 06:58AM BLOOD ALT-12 AST-16 LD(LDH)-119 AlkPhos-88 
TotBili-0.4
___ 06:58AM BLOOD Albumin-3.6 Calcium-8.8 Phos-4.4 Mg-1.8

Microbiology:
None

Imaging:
None
 
Brief Hospital Course:
___ y/o M w/ hx of DM2, schizoaffective d/o, and recent 
necrotizing ___ pancreatitis, c/b respiratory failure and 
malignant catatonia with interval ERCP/stenting, s/p lap- 
subtotal CCY in ___, who presented for scheduled biliary 
stent removal.

#Necrotizing Gallstone Pancreatitis s/p Common Bile Duct Stent 
Removal: Pt underwent ERCP on ___. His previous stent was 
removed, and a plastic stent was placed in another CBD 
stricture. Procedure was also notable for removal of a 
significant amount of debris and possible pus. 
Post-procedurally, he was started on a 5-day course of 
ciprofloxacin. His diet was advanced without difficulty.

-f/u with ERCP in 6 weeks
-f/u with PCP
-___ BID for 3 days

#Xerotic Eczema: Pt's dry skin/rash were consistent with xerotic 
eczema. He was treated with triamcinolone cream, vaseline and 
sarna lotion with marked improvement in his symptoms.

-Triamcinolone cream x 7days

#Schizoaffective disorder: Pt was evaluated by psychiatry, who 
felt that his mental illness was compensated and did not require 
any medication changes.

-f/u with outpatient psychiatrist (Dr. ___

#Asthma: Pt's physical exam was notable for diffuse wheezing, 
although he was asymptommatic. Peak flow increased from 250->300 
after albuterol. Pt was discharged with a peak flow meter and 
albuterol inhaler.

-Peak flow meter PRN SOB

**Transitional Issues**
1. f/u with PCP
2. f/u ERCP in 6-weeks (call ___ if no appt in 7 days)
3. ciprofloxacin BID for 3 days
4. Triamcinolone cream x 7days
5. Peak flow meter PRN SOB
6. Refill metformin at PCP follow up

# Code: Full Code 
# Emergency Contact: ___ (sister) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 1 mg PO TID 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Omeprazole 20 mg PO DAILY 
4. Glargine 20 Units Bedtime
5. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze/sob 

 
Discharge Medications:
1. Glargine 20 Units Bedtime
2. Lorazepam 1 mg PO TID:PRN Anxiety 
3. Omeprazole 20 mg PO DAILY 
4. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze/sob 
RX *albuterol  ___ puffs every six (6) hours Disp #*1 Inhaler 
Refills:*0
5. MetFORMIN (Glucophage) 1000 mg PO BID 
RX *metformin [Glucophage] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0
6. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
RX *triamcinolone acetonide 0.1 % Apply small amount to rash 
three times a day Refills:*0
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Necrotizing pancreatitis status post common bile duct stent
Eczema

Secondary:
Asthma
Schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ to 
have a procedure to change the stent in your pancreas. You had a 
procedure to replace this stent, which is called an "ERCP". 
There were no problems with the procedure. You will need to take 
a new medication, called ciprofloxacin, for the next 3 days to 
prevent infections. The ERCP team will call you about a follow 
up appointment. If you do not hear from them in 7 days, you 
should call them at ___. You are also scheduled to see 
___ on ___.

The rash on your legs may have been caused by irritation to you 
skin, probably from dryness. We are giving you a new cream to 
treat this. You should talk with ___ it when you see 
him on ___. You should also use vaseline to help moisturize 
your skin, and you can get this over the counter.

You should use your peak flow meter if you feel short of breath. 
If it is less than 250, you should use your albuterol inhaler.

It was a pleasure to help care for you during this 
hospitalization, and we wish you all the best moving forward.

Sincerely,
Your ___ team
 
Followup Instructions:
___